US07692016B2
Preparation of 8-Chloro-4-Methylquinoline
To a stirred solution of 2-chloroaniline (1 g. 7.8 mmol.) in acetic acid (10 ml), activated silferc (1.25 g. ferric chloride 7.8 mmol) was added under nitrogen atmosphere. The reaction mixture was stirred for 5 minutes and methyl vinyl ketone (MVK) (0.6 g, 8.5 mmol) was added slowly over a period of 15 minutes. The reaction mixture was heated to 70° C. and maintained between 70-75° C. for one hour. Anhydrous zinc chloride (1.0 g. 7.8 mmol) was added and the reaction was further refluxed for two hours. The reaction mixture was cooled, filtered, basified with 10% NaOH solution, extracted with ethyl acetate (3×20 ml), dried over Na2SO4 and evaporated to give the product; Yield 62%.

reactant | 2-chloroaniline | 7.8 mmol, 1 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | methyl vinyl ketone | 8.5 mmol, 0.6 g | C(=C)C(=O)C | C4H6O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | zinc chloride | 7.8 mmol, 1.0 g | [Cl-].[Zn+2].[Cl-]
product | 8-Chloro-4-Methylquinoline | Yield 62% | ClC=1C=CC=C2C(=CC=NC12)C | C10H8ClN
